US06972340B2
methyl 3-{4-[(tert-butoxycarbonyl)amino]butoxy}-1-(methoxymethoxy)-2-naphthoate
To a mixture of methyl 3-hydroxy-1-(methoxymethoxy)-2-naphthoate (41 mg, 0.16 mmol), triphenylphosphine (41 mg, 0.16 mmol) and N-(tert-butoxycarbonyl)-4-hydroxy-1-butylamine (33 mg, 0.17 mmol) in THF (0.5 mL) was added diethylazodicarboxylate (30 μL, 0.19 mmol). The mixture was stirred at ambient temperature for 30 minutes, concentrated under reduced pressure and purified on silica gel eluting with 30% ethyl acetate/hexanes to provide the titled compound (28 mg, 41%).

reactant | methyl 3-hydroxy-1-(methoxymethoxy)-2-naphthoate | 0.16 mmol, 41 mg | OC=1C(=C(C2=CC=CC=C2C1)OCOC)C(=O)OC | C14H14O5
reactant | triphenylphosphine | 0.16 mmol, 41 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-(tert-butoxycarbonyl)-4-hydroxy-1-butylamine | 0.17 mmol, 33 mg | C(C)(C)(C)OC(=O)NCCCCO | C9H19NO3
reactant | diethylazodicarboxylate | 0.19 mmol, 30 μL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | methyl 3-{4-[(tert-butoxycarbonyl)amino]butoxy}-1-(methoxymethoxy)-2-naphthoate | 28 mg, 41% | C(C)(C)(C)OC(=O)NCCCCOC=1C(=C(C2=CC=CC=C2C1)OCOC)C(=O)OC | C23H31NO7
